US07662402B2
6.8 g of trifluoromethanesulfonic anhydride was added dropwise to 5.0 g of 2,2,3,3,4,4,5,5,5-nonafluoropentanol at 0° C., and the mixture was stirred at room temperature for 5 hours and at 100° C. for 3 hours. Thereafter, the reaction mixture was poured to ice water and then extracted with methyl tert-butyl ether. The organic layer was washed successively with water, aqueous saturated sodium hydrogen carbonate and aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure to obtain 4.7 g of 2,2,3,3,4,4,5,5,5-nonafluoropentyl trifluoromethanesulfonate.

reactant | trifluoromethanesulfonic anhydride | 6.8 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2,2,3,3,4,4,5,5,5-nonafluoropentanol | 5.0 g | FC(CO)(C(C(C(F)(F)F)(F)F)(F)F)F | C5H3F9O
product | 2,2,3,3,4,4,5,5,5-nonafluoropentyl trifluoromethanesulfonate | 4.7 g | FC(S(=O)(=O)OCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F | C6H2F12O3S
